US05095056
A 2 liter flask equipped with a thermometer, stirrer and condenser is charged with 200 g polyphosphoric acid which is heated to 70° C. Thereafter, 40 g of 2,5-di-(p-chloranilino)terephthalic acid is added, the mixture is heated to 145°-150° C. and held at this temperature for 2 hours. 34.9 g water are slowly dropped into the mixture at 130° C. (to 90% H3PO4) and held for two additional hours at 145°-150° C. With the mixture at 140° C., 350 ml water is added over a 30 minute period with the mixture being maintained at 90°-95° C. for an additional 30 minutes. The reaction slurry is filtered, the presscake reslurried in 400 ml water and the pH adjusted to 12.0 by the addition of 50% aqueous sodium hydroxide solution. The pigment suspension is stirred for 30 minutes at 90° C. and filtered. The presscake is washed base free with water and dried yielding 35.62 g of 2,9-dichloroquinacridone pigment manifesting a specific surface area of 28.5 m2 /g.

reactant | 2,5-di-(p-chloranilino)terephthalic acid | 40 g | ClC1=CC=C(NC2=C(C(=O)O)C=C(C(=C2)C(=O)O)NC2=CC=C(C=C2)Cl)C=C1 | C20H14Cl2N2O4
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | water | 350 ml | O | H2O
solvent | water | 34.9 g | O | H2O
product | 2,9-dichloroquinacridone | 35.62 g | C1=CC2=C(C=C1Cl)C(=O)C3=CC4=C(C=C3N2)C(=O)C5=C(N4)C=CC(=C5)Cl | C20H10Cl2N2O2
